US04358448
To a solution of 2-[2-(N-chloroacetyl)-imino-3-methoxy-4-thiazolinyl]-2-methoxyimino-acetic acid (3.07 g) in anhydrous THF (120 ml) cooled at -5° C., N,N'-dicyclohexylcarbodiimide (2.06 g) was added. After stirring for 10 minutes at -5° C. and 50 minutes at room temperature, the precipitate dicyclohexylurea was filtered off, and the solution was added into a cooled (-10° C.) solution obtained by stirring 7-amino-3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-3-cephem-4-carboxylic acid (3.3 g) and N,O-bis-(trimethyl-silyl)-acetamide (8.1 g) in anhydrous THF (200 ml), CH3CN (80 ml) and DMF (4 ml) for 1 hour at 50° C. The mixture was stirred 20 minutes at -10° C. and 90 minutes at room temperature. H2O (10 ml) was added in order to hydrolize the silylated product, and the major part of the solvents were evaporated under reduced pressure. The residue was partitioned between H2O (50 ml) and ethyl acetate (100 ml); the organic layer was separated and the aqueous one was extracted again with ethyl acetate. The combined extracts were dried (Na2SO4), concentrated to a small volume and diluted with ethyl ether. The precipitated solid was collected and washed with ethyl ether, thus giving 5.1 g of 7β[2-(2-N-chloroacetyl)-imino-3-methoxy-4-thiazolinyl]-2-methoxyimino-acetamido]-3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-3-cephem-4-carboxylic acid. This compound was dissolved in MeCN (200 ml) and heated with diphenyldiazomethane (1.9 g). After stirring 1 hour at room temperature, the solvent was evaporated, the residue was taken up with ethyl acetate, washed with dilute NaHCO3 solution, then with water, dried (Na2SO4), and again evaporated to dryness. The residue was triturated with ethyl ether and filtered, thus affording 6.3 g of benzhydryl ester.

reactant | N,N'-dicyclohexylcarbodiimide | 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 7-amino-3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-3-cephem-4-carboxylic acid | 3.3 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | H2O | 10 ml | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | CH3CN | 80 ml | CC#N | C2H3N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2)=O | C10H11N5O3S2
